US04820821
5.3 g (52.4 millimoles) of triethylamine were added dropwise to 10.0 g (48.2 millimoles) of 1,4-dihydro-4-imino-1-phenylpyridazine hydrochloride in 25 ml (24.2 g 424 millimoles) of methyl isocyanate at room temperature, while stirring. After the addition was complete, the reaction mixture was diluted with 50 ml of acetone, and stirred for a further 2 hours at room temperature. The product was filtered off under suction, washed with water and acetone, and recrystallized from methanol. 3.0 g (27% of theory) of 1,4-dihydro-4-(methylcarbamyl)-imino-1-phenylpyridazine were isolated as slightly greenish crystals of melting point 205°-206° C.

reactant | triethylamine | 52.4 millimoles, 5.3 g | C(C)N(CC)CC | C6H15N
reactant | 1,4-dihydro-4-imino-1-phenylpyridazine hydrochloride | 48.2 millimoles, 10.0 g | Cl.N=C1C=NN(C=C1)C1=CC=CC=C1
reactant | methyl isocyanate | 424 millimoles, 25 ml, 24.2 g | CN=C=O | C2H3NO
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 1,4-dihydro-4-(methylcarbamyl)-imino-1-phenylpyridazine | 3.0 g, 27% | CNC(=O)C1C(NN(C=C1)C1=CC=CC=C1)=N | C12H14N4O
